
M474578854 N004 vinn N006 VDD PMOS l=0.18u w=4u
M894390833 N004 vinp N005 VDD PMOS l=0.18u w=4u
M237614474 VDD vb1 N002 VDD PMOS l=0.18u w=4u
M548909585 VDD N001 N001 VDD PMOS l=0.18u w=4u
M763018403 VDD N001 N003 VDD PMOS l=0.18u w=4u
M107926076 N001 vb4 vb4 VDD PMOS l=0.18u w=4u
M879653047 N003 vb4 vout VDD PMOS l=0.18u w=4u
M662066616 vout vb3 N005 0 NMOS l=0.18u w=2u
M736545791 N005 vb2 0 0 NMOS l=0.18u w=2u
M675479766 vb4 vb3 N006 0 NMOS l=0.18u w=2u
M541546243 N006 vb2 0 0 NMOS l=0.18u w=2u
VDD VDD 0 1.8
C245039564 vout 0 1p
M512816416 N002 vb5 N004 VDD PMOS l=0.18u w=4u
