M709504019 n1 vinp ntail 0 nch W=2u L=0.18u
M880152277 vout vinn ntail 0 nch W=2u L=0.18u
M707021284 ntail vbias_n 0 0 nch W=1u L=0.5u
M932988141 vout n1 VDD VDD pch W=4u L=0.18u
M339036323 n1 n1 VDD VDD pch W=4u L=0.18u
VDD VDD 0 1.8
C857486518 vout 0 1p

