M258017589 N003 vip N005 0 nch W=2u L=0.18u
M858625807 N004 vin N005 0 nch W=2u L=0.18u
M646552391 voutn vb3 N003 0 nch W=1u L=0.18u
M798598829 voutp vb3 N004 0 nch W=1u L=0.18u
M811880075 N005 vtail 0 0 nch W=1u L=0.5u
M78771943 voutn vb2 N001 VDD pch W=2u L=0.18u
M970414391 voutp vb2 N002 VDD pch W=2u L=0.18u
M839951405 N001 vb1 VDD VDD pch W=4u L=0.18u
M492402262 N002 vb1 VDD VDD pch W=4u L=0.18u
C947520256 voutp 0 1p
C608262991 voutn 0 1p
VDD VDD 0 1.8
