
M196238436 N002 vin 0 0 NMOS l=0.18u w=2u
M496157827 vout vb1 N002 0 NMOS l=0.18u w=2u
M471475787 vout vb2 N001 VDD PMOS l=0.18u w=4u
M379971185 N001 vb3 VDD VDD PMOS l=0.18u w=4u
VDD VDD 0 1.8
C528620431 vout 0 1p
