M1 n1 vinp ntail 0 nch W=2u L=0.18u
M2 n2 vinn ntail 0 nch W=2u L=0.18u
Mtail ntail vbias_n 0 0 nch W=1u L=0.5u
M3 n1 n1 VDD VDD pch W=2u L=0.18u      
M4 n2 n1 VDD VDD pch W=2u L=0.18u
M5 nmir n1 VDD VDD pch W=4u L=0.18u
M6 vout n1 VDD VDD pch W=4u L=0.18u
M7 nmir nmir 0 0 pch W=2u L=0.18u
M8 vout nmir 0 0 nch W=2u L=0.18u  

VDD VDD 0 1.8
Cload vout 0 1p

